US05302718
Methyl 5-ethenyl-2-hydroxybenzoate
Methyl 5-ethynyl-2-hydroxybenzoate (8 g, 45.4 mmol), prepared according to Example 1b, was dissolved in a mixture of diethyl ether and light petroleum (200+200 ml) in a hydrogenation flask. Quinoline (1.7 ml) and palladium on CaCO3, poisoned with Pb (Lindlar catalyst; 200 mg) were added, and the flask was attached to an atmospheric pressure hydrogenation apparatus. The mixture was stirred for 2 h at room temperature, by then the calculated amount of hydrogen had been consumed. The catalyst was filtered off and the solution was evaporated to dryness. The product was purified by flash column chromatograpy on silica, using toluene as an eluent. A nearly quantitative yield was obtained.

reactant | Methyl 5-ethynyl-2-hydroxybenzoate | 45.4 mmol, 8 g | C(#C)C=1C=CC(=C(C(=O)OC)C1)O | C10H8O3
reactant | Quinoline | 1.7 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium | [Pd] | Pd
product | Methyl 5-ethenyl-2-hydroxybenzoate | quantitative yield | C(=C)C=1C=CC(=C(C(=O)OC)C1)O | C10H10O3
